US09428452B2
N-(2,4-dimethylphenyl)-3-(hydroxymethyl)-N-isobutylbenzenesulfonamide
Methyl 3-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzoate (400 mg, 1.065 mmol) was dissolved in tetrahydrofuran (THF) (10 mL). To this solution was added lithium borohydride (2 M in THF) (0.932 mL, 1.864 mmol). The reaction was left to stir overnight, at room temperature. The reaction was quenched by the addition of 5% citric acid (10 mL), and the reaction allowed to stir under nitrogen, for 1 hour. The reaction mixture was then diluted with ethyl acetate (25 mL), and the product extracted to the organic phase. The organic phase was dried by passing it through a hydrophobic frit and then concentrated in vacuo to give the desired product, 378.7 mg. LCMS [LCMS1] Rt 1.23 min, m/z (ES+) 348 (M+H).

reactant | Methyl 3-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzoate | 1.065 mmol, 400 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C=1C=C(C(=O)OC)C=CC1)CC(C)C | C20H25NO4S
reactant | lithium borohydride | 1.864 mmol, 2 M, 0.932 mL | [BH4-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-(2,4-dimethylphenyl)-3-(hydroxymethyl)-N-isobutylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC(=CC=C1)CO)CC(C)C | C19H25NO3S
